US04882338
2-{[6-Methoxy-7-(2,2,2-trifluoroethoxy)isoquinolin-1-yl]-methylthio}benzimidazole (Ia-7)
To a solution of 514.8 mg of 86% KOH (7.87 mmol) in 20 ml of 99% EtOH were added 434.1 mg of 2-mercaptobenzimidazole (II-1) (2.89 mmol) and 900.1 mg of 1-dichloromethyl-6-methoxy-7-(2,2,2-trifluoroethoxy)-3,4-dihydroisoquinoline (IV-1) (2.63 mmol) in order. After stirring for 30 min. at room temperature, the mixture was refluxed for 3 hr. and concentrated under reduced pressure. The residue was mixed with water and extracted with CHCl3. The objective compound existing as an insoluble material was filtered and combined with CHCl3 extract to give 722.5 mg of the crude product. It was dispersed in 15 ml of CH2Cl2, filtered and washed with CH2Cl2 to give 666.5 mg of the titled compound 2-{[6-methoxy-7-(2,2,2-trifluoroethoxy)isoquinolin-1-yl]methylthio}-benzimidazole (Ia-7) (Yield: 60.4%).

reactant | KOH | 7.87 mmol, 514.8 mg | [OH-].[K+]
reactant | 2-mercaptobenzimidazole | 2.89 mmol, 434.1 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 1-dichloromethyl-6-methoxy-7-(2,2,2-trifluoroethoxy)-3,4-dihydroisoquinoline | 2.63 mmol, 900.1 mg | ClC(C1=NCCC2=CC(=C(C=C12)OCC(F)(F)F)OC)Cl | C13H12Cl2F3NO2
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-{[6-methoxy-7-(2,2,2-trifluoroethoxy)isoquinolin-1-yl]methylthio}-benzimidazole | Yield: 60.4% | COC=1C=C2C=CN=C(C2=CC1OCC(F)(F)F)CSC=1NC2=C(N1)C=CC=C2 | C20H16F3N3O2S
